US05185352
1-Benzyl-2-bromomethyl-5-octadecyloxy-4(1H)-pyridone hydrobromide
5.1 mL (0.1 mole) Bromine are added dropwise at ambient temperature, while stirring, to a solution of 26.5 g (0.1 mole) triphenylphosphine in 600 mL anhydrous toluene, a white crystalline precipitate thereby being formed. After further stirring for 20 minutes at ambient temperature, 48.17 g (0.1 mole) 1-benzyl-2-hydroxymethyl-5-octadecyloxy-4(1H)-pyridone are added thereto in portions. Thereafter, the reaction mixture is stirred for 2 hours at 70° C., cooled and the precipitated product is filtered off, washed with toluene, dried and recrystallized from propan-2-ol, pale beige crystals being obtained; m.p. 92°-95° C.

reactant | Bromine | 0.1 mole, 5.1 mL | BrBr | Br2
reactant | triphenylphosphine | 0.1 mole, 26.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-benzyl-2-hydroxymethyl-5-octadecyloxy-4(1H)-pyridone | 0.1 mole, 48.17 g | C(C1=CC=CC=C1)N1C(=CC(C(=C1)OCCCCCCCCCCCCCCCCCC)=O)CO | C31H49NO3
solvent | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Benzyl-2-bromomethyl-5-octadecyloxy-4(1H)-pyridone hydrobromide | Br.C(C1=CC=CC=C1)N1C(=CC(C(=C1)OCCCCCCCCCCCCCCCCCC)=O)CBr | InChI=1S/C31H48BrNO2.BrH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-20-23-35-31-27-33(29(25-32)24-30(31)34)26-28-21-18-17-19-22-28;/h17-19,21-22,24,27H,2-16,20,23,25-26H2,1H3;1H
